US07138425B2
a) 2-(3-Amino-4-methoxyphenyl)-5-phenylbenzoxazole
Prepared by the method of Example 1a), from 2-amino-4-phenylphenol (554 mg, 2.9 mmol) and 4-methoxy-3-aminobenzoic acid (500 mg, 2.9 mmol) the subtitle compound was obtained, 111 mg (10%). 1H NMR (CDCl3) δ 7.84(s, 1H), 7.72–7.38(m, 9H), 6.93(d, J=8.3 Hz, 1H), 3.96(s, 3H). MS 316 m/z (M+H)+.

reactant | 2-amino-4-phenylphenol | 2.9 mmol, 554 mg | NC1=C(C=CC(=C1)C1=CC=CC=C1)O | C12H11NO
reactant | 4-methoxy-3-aminobenzoic acid | 2.9 mmol, 500 mg | COC1=C(C=C(C(=O)O)C=C1)N | C8H9NO3
product | 2-(3-Amino-4-methoxyphenyl)-5-phenylbenzoxazole | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C20H16N2O2
